.SUBCKT OR3X2H7R A B C VDD VSS Y
*.PININFO A:I B:I C:I Y:O VDD:B VSS:B
MNM0 net27 B VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MNM1 net27 C VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN3 net27 A VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMP3 net27 C net22 VDD pm1p2_svt_lp W=190n L=60n m=1
MPM0 net22 B net020 VDD pm1p2_svt_lp W=190n L=60n m=1
MPM1 net020 A VDD VDD pm1p2_svt_lp W=190n L=60n m=1
XXI4 net27 VDD VSS Y / INV pl=6e-08 pw=3.8e-07 nl=6e-08 nw=3e-07
.ENDS
