.SUBCKT SDFFNQX3H7R CKN D Q SE SI VDD VSS
*.PININFO CKN:I D:I SE:I SI:I Q:O VDD:B VSS:B
XXI13 c VDD VSS cn / INV pl=60n pw=210n nl=60n nw=170n
XXI10 net51 VDD VSS net48 / INV pl=60n pw=250n nl=60n nw=200n
XXI23 SE VDD VSS SEN / INV pl=60n pw=210n nl=60n nw=170n
XXI7 net39 VDD VSS net44 / INV pl=60n pw=210n nl=60n nw=170n
XXI4 CKN VDD VSS c / INV pl=60n pw=210n nl=60n nw=170n
XXI12 net51 VDD VSS Q / INV pl=60n pw=570n nl=60n nw=450n
XXI15 net48 cn c VDD VSS net51 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI9 net44 c cn VDD VSS net51 / TSINV pl=60n pw=190n nl=60n nw=150n
XXI21 D SEN SE VDD VSS net76 / TSINV pl=60n pw=210n nl=60n nw=170n
XXI22 SI SE SEN VDD VSS net76 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI14 net44 c cn VDD VSS net39 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI6 cn c net76 net39 VDD VSS / TG pl=60n pw=190n nl=60n nw=150n
.ENDS
