.SUBCKT SDFFNRX3H7R CKN D Q QN RN SE SI VDD VSS
*.PININFO CKN:I D:I RN:I SE:I SI:I Q:O QN:O VDD:B VSS:B
XXI32 cn c net076 net33 VDD VSS / TG pl=60n pw=360n nl=60n nw=260n
XXI9 c cn net46 net099 VDD VSS / TG pl=60n pw=360n nl=60n nw=260n
XXI4 CKN VDD VSS c / INV pl=60n pw=340n nl=60n nw=240n
XXI10 net099 VDD VSS net0147 / INV pl=60n pw=360n nl=60n nw=260n
XXI13 c VDD VSS cn / INV pl=60n pw=340n nl=60n nw=240n
XXI5 net0147 VDD VSS Q / INV pl=60n pw=600n nl=60n nw=420n
XXI31 RN VDD VSS r / INV pl=60n pw=340n nl=60n nw=240n
XXI12 net099 VDD VSS QN / INV pl=60n pw=600n nl=60n nw=420n
XXI34 SE VDD VSS SEN / INV pl=60n pw=340n nl=60n nw=240n
MMN1 net099 cn net53 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN2 net53 net0147 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN5 net099 r VSS VSS nm1p2_svt_lp W=260n L=60n m=1
MMN4 net46 net33 VSS VSS nm1p2_svt_lp W=260n L=60n m=1
MMP4 net54 r VDD VDD pm1p2_svt_lp W=360n L=60n m=1
MMP2 net48 net0147 net54 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP1 net099 c net48 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP3 net46 net33 net54 VDD pm1p2_svt_lp W=360n L=60n m=1
XXI30 D SEN SE VDD VSS net076 / TSINV pl=60n pw=340n nl=60n nw=260n
XXI33 SI SE SEN VDD VSS net076 / TSINV pl=60n pw=250n nl=60n nw=200n
XXI29 net46 c cn VDD VSS net33 / TSINV pl=60n pw=150n nl=60n nw=150n
.ENDS
