.SUBCKT SDFFNSX1H7R CKN D Q QN SE SI SN VDD VSS
*.PININFO CKN:I D:I SE:I SI:I SN:I Q:O QN:O VDD:B VSS:B
MMN6 net056 SN VSS VSS nm1p2_svt_lp W=220n L=60n m=1
MMN1 net0100 cn net26 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN2 net26 net048 net056 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN4 net46 net33 net056 VSS nm1p2_svt_lp W=220n L=60n m=1
MMP0 net0100 SN VDD VDD pm1p2_svt_lp W=200n L=60n m=1
MMP2 net67 net048 VDD VDD pm1p2_svt_lp W=150n L=60n m=1
MMP1 net0100 c net67 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP3 net46 net33 VDD VDD pm1p2_svt_lp W=300n L=60n m=1
XXI32 SI SE SEN VDD VSS net076 / TSINV pl=60n pw=250n nl=60n nw=200n
XXI29 net46 c cn VDD VSS net33 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI30 D SEN SE VDD VSS net076 / TSINV pl=60n pw=280n nl=60n nw=200n
XXI9 c cn net46 net0100 VDD VSS / TG pl=60n pw=300n nl=60n nw=220n
XXI33 cn c net076 net33 VDD VSS / TG pl=60n pw=280n nl=60n nw=200n
XXI34 SE VDD VSS SEN / INV pl=60n pw=280n nl=60n nw=200n
XXI12 net0100 VDD VSS QN / INV pl=60n pw=340n nl=60n nw=240n
XXI5 net048 VDD VSS Q / INV pl=60n pw=340n nl=60n nw=240n
XXI13 c VDD VSS cn / INV pl=60n pw=280n nl=60n nw=200n
XXI10 net0100 VDD VSS net048 / INV pl=60n pw=300n nl=60n nw=220n
XXI4 CKN VDD VSS c / INV pl=60n pw=280n nl=60n nw=200n
.ENDS
